* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD5677R.asc
* Generated by LTspice 24.1.9 for Windows.
RLOAD vOUT 0 1k
CLOAD vOUT 0 10n
Vdac vDAC 0 PWL(0 0.625 10u 0.625 +1u 1.875)
V1 Vdd 0 5
X§U2 vDAC Vdd 0 vOUT AD5677R Gain=2
.tran 50u
.lib AD5677R.sub
.backanno
.end
