* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD5679R.asc
* Generated by LTspice 24.1.9 for Windows.
RLOAD NC_01 0 1k
CLOAD vOUT 0 10n
Vdac vDAC 0 PWL(0 0 10u 0 +1u 1.875)
V1 Vdd 0 5.5
X§U1 vDAC Vdd 0 vOUT AD5679R Gain=2
.tran 50u
.lib AD5679R.sub
.backanno
.end
