* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD5687R.asc
* Generated by LTspice 24.1.9 for Windows.
CLOAD vOUT 0 10n
Vdac vDAC 0 PWL(0 0.625 10u 0.625 +1u 1.875)
V1 Vdd 0 5
Vdac1 NC_01 0 1.25
I1 0 0 100µ AC 1
X§U2 vDAC Vdd 0 vOUT AD5687R Gain=2
.tran 200u
* .dc I1 0 40m 1m
* .ac oct 100 1u 1G
* Gain parameter can be 1 or 2
.lib AD5687R.sub
.backanno
.end
