* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD5770R.asc
* Generated by LTspice 24.1.9 for Windows.
RLOAD iOUT 0 5
CLOAD iOUT 0 4.7µ
Vdac vDAC 0 PWL(0 0 10u 0 +10n 1.95 200u 1.95 +10n 0.9)
V1 N001 0 1.95
V2 N002 0 -1.5
X§U1 vDAC iOUT N001 N002 0 AD5770R Range=1
.tran 350u
.lib AD5770R.sub
.backanno
.end
