* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD5772R.asc
* Generated by LTspice 24.1.9 for Windows.
RLOAD iOUT 0 1
Vdac vDAC 0 PWL(0 0 10u 0 +10n 1.25 +100u 1.25 +10n 0.625)
V1 N001 0 1.95
V2 N002 0 -1.5
X§U1 vDAC iOUT N001 N002 0 AD5772R Range=6 isink_en=0
.tran 350u
* Range    isink_en   Output range\n0                X             0 to 100mA\n1                X             0 to 50mA\n2                X             0 to 200mA\n3                X             0 to 150mA\n4                X             0 to 100mA\n5                X             0 to 50mA\n6                0             0 to 300mA\n                  1             -60mA to 100mA\n7                0                 0\n                  1             -60mA to 0\n8                0             0 to 200mA\n                  1             -60mA to 200mA\n9                0             0 to 100mA\n                  1             -60mA to 100mA
* 0 to 1.25V
.lib AD5772R.sub
.backanno
.end
