* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4075-2.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N003 N004 5
X§U1 MP_01 N002 N003 MP_02 N001 LT3092
R2 N002 N004 20K
V1 N001 0 PWL(0 0 1 40)
D1 N004 N005 LED
Rseries N005 0 100
.model LED D(Is=1e-22 Rs=6 N=1.5)
.tran 1
.lib LT3092.sub
.backanno
.end
