* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4084-2.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N003 N001 V+ V- N002 ADA4084-2
R1 N002 N001 10k
R2 N001 0 10k
V1 N003 0 SINE(0 1 1k)
R3 N002 0 10k
V2 V+ 0 15
V3 0 V- 15
.tran 5m
.lib ADA4084-2.lib
.backanno
.end
