* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4099-1.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N001 OUT 1.25k
R2 N001 0 5k
V1 V+ 0 5
Vin N004 0 SINE(0 10 2k)
R3 N002 N003 1.25k
R4 N002 N004 5k
Vref N003 0 2.5
X§U1 N002 N001 V+ 0 OUT 0 ADA4099-1
.tran 2000u
.lib ADA4099-1.sub
.backanno
.end
