* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4352-2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 2.5
V2 N005 0 -2.5
V3 N003 0 3
I1 N004 0 PULSE(0 634u 2.2u 30n 30n 5u 10u)
C1 N004 0 10p
V4 SWSEL1 0 0
V5 SWSEL0 0 0
R1 N004 0 10Meg
C3 OUT 0 180p
R3 OUT N002 200
X§U1 N004 0 N005 0 SWSEL1 SWSEL0 N003 N001 N002 ADA4352-2
.tran 10u
.lib ADA4352-2.sub
.backanno
.end
