* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4523-1.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 28
R1 OUT N001 1K
R2 N001 0 10
D1 N002 OUT 1N4148
Rsense N003 0 1K
Isense 0 N003 0
X§U1 +V N001 N003 0 N002 +V 0 ADA4523-1
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
* V(OUT) = 101*Rsense*Isense
.dc Isense 0 1u 10n
.lib ADA4523-1.sub
.backanno
.end
