* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4530-1.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 0 -V 5
I1 IN 0 PULSE(0 10n 1m 1u 1u 1 2)
R1 OUT IN 100Meg
C1 OUT IN 5p
R2 OUT 0 10K
X§U2 0 IN +V -V OUT N001 ADA4530-1
.tran 10
;.options gmin=1e-15 ; Uncomment to see actual  ADA4530 input impedance
.lib ADI1.lib
.backanno
.end
