* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4700-1.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 25
Vin IN 0 SINE(0 10 1K)
R1 N001 0 10K
R2 OUT N001 10K
V2 -V 0 -25
Rload OUT 0 10K
X§U1 IN N001 +V -V OUT ADA4700-1
.tran 10m
.lib ADI1.lib
.backanno
.end
