* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4807-1.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 IN 0 SINE(0 0.5 250K)
R1 N001 0 1K
R2 OUT N001 1K
X§U1 IN N001 +V -V OUT NC_01 ADA4807
V3 -V 0 -5
.tran 50u
.lib ADA4807.lib
.backanno
.end
