* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4930-1.asc
* Generated by LTspice 24.1.9 for Windows.
RG1 N001 N002 301
RG2 N004 N005 301
RG3 OUTn N001 301
RG4 OUTp N004 301
Vcc VS 0 5
Vref N005 0 0.9
Vocm N003 0 0.9
R1 OUTn OUTp 200
X§U1 N001 N004 NC_01 NC_02 VS 0 N003 OUTp OUTn VS ADA4930-1
Vin N002 N005 SINE(0 10m 1Meg)
.tran 2u
.lib ADA4930-1.lib
.backanno
.end
