* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4960-1.asc
* Generated by LTspice 24.1.9 for Windows.
G1 0 OUT_DIFF OUT- OUT+ -1m
R5 OUT_DIFF 0 1k
VS1 N001 0 5
Vin IN 0 SINE(2.5 100m 20Meg)
C1 0 N003 0.1µ
RG N006 N007 246
R2 OUT- 0 50
R3 0 OUT+ 50
C2 OUT- N002 0.1µ
C3 OUT+ N008 0.1µ
R1 N004 IN 50
R4 N004 0 50
C4 N005 N004 0.1µ
C5 N009 N010 0.1µ
R6 N010 0 50
X§U1 N006 N007 N005 N009 N001 0 N002 N008 N003 ADA4960-1
.tran 100n
.lib ADA4960-1.sub
.backanno
.end
