* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4945-LP.asc
* Generated by LTspice 24.1.9 for Windows.
V1 VH 0 4.5
V2 VL 0 0.5
V3 VOCM 0 2.5
V5 Vcc 0 5
V6 Vee 0 0
R1 N003 N001 499
R2 N006 N004 499
R3 N004 N005 499
R4 N001 N002 499
V7 N005 0 2.5
V8 N002 0 SINE(2.5 2.5 1k) AC 1
R6 OUT- OUT+ 1k
V4 _DIS 0 5
X§U1 N003 N001 N004 N006 Vcc Vee OUT- OUT+ _DIS VOCM VH VL 0 ADA4945-LP
E1 OUT 0 OUT+ OUT- 1
.tran 1m
.lib ADA4945-LP.sub
.backanno
.end
