* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4254.asc
* Generated by LTspice 24.1.9 for Windows.
V2 AVDD 0 5
V4 VDDH 0 28
V5 0 VSSH 28
V6 N002 0 2.5
X§U1 0 N004 VDDH VSSH AVDD 0 N002 N001 N003 N005 N005 N005 0 0 0 ADA4254
V1 N004 0 PULSE(-.5 .5 10u 100n 100n 40u 1)
E1 Out 0 N003 N001 1
V7 N005 0 5
.tran 80u
* Gain of 8 Configuration
.lib ADA4254.sub
.backanno
.end
