* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4255.asc
* Generated by LTspice 24.1.9 for Windows.
V1 AVDD 0 5
V2 VDDCP 0 5
V6 N003 0 5
V3 VIN 0 SINE(0 0.5 2k)
E2 VIN+ VICM VIN 0 0.5
E3 VICM VIN- VIN 0 0.5
R1 N002 0 2.5k
R2 0 N001 2.5k
V5 N004 0 0
V8 VOCM 0 2.5
V9 VICM 0 10
G1 0 VOUT N002 N001 1m
R3 VOUT 0 1k
X§U1 VIN+ VIN- VDDH VSSH AVDD 0 VOCM N001 N002 N003 N003 N003 N004 N004 N004 VDDCP ADA4255
* Gain of 8\nconfiguration
.tran 2m
.lib ADA4255.sub
.backanno
.end
