* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4351.asc
* Generated by LTspice 24.1.9 for Windows.
VAVSS AVSS 0 -0.1
VAVDD AVDD 0 4.9
Cext ADCIN 0 {Cext}
Rext ADCIN OUT {Rext}
VDVSS DVSS 0 0
VDVDD DVDD 0 3
ESWSEL SWSEL 0 DVDD DVSS {SWSEL}
Ipd INN 0 {Ipd} AC 1
Rpd INN 0 1G
Cpd INN 0 100p
RF0 SW0 INN {RF0}
RF1 SW1 INN {RF1}
X§U1 INN 0 AVSS DVSS SWSEL DVDD AVDD OUT SW1 SW0 ADA4351
* Photodiode model
* ADA4351\nTypical Application Diagram\nFigure 1
.step param Ipd 0 4u 0.1u
.op
.param RF0=100k RF1=1Meg
.param Rext=100 Cext=1n
.param SWSEL=1
.lib ADA4351.lib
.backanno
.end
