* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4691.asc
* Generated by LTspice 24.1.9 for Windows.
Vcc Vcc 0 2.5
Vee 0 Vee 2.5
Vcm N002 0 SINE(0 1 1k)
R1 N001 0 2k
X§U1 N002 N001 Vcc Vee N001 Vcc ADA4691
.tran 5m
.lib ADA4691.lib
.backanno
.end
