* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4805.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 IN 0 SINE(2.5 0.5 250K)
R1 N002 N001 1K
R2 OUT N002 1K
Vref N001 0 2.5
X§U1 IN N002 +V 0 OUT +V ADA4805
.tran 50u
.lib ADI.lib
.backanno
.end
