* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4830.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N001 N002 5K
R2 OUT 0 1K
V1 N001 0 5
V3 N004 0 SINE(0 1 1Meg)
V4 N003 0 2.5
V5 N005 0 PULSE(0 3 1u 1n 1n 10u 20u)
X§U1 N003 N004 0 N001 0 N005 N002 OUT ADA4830
.tran 100u
.lib ADI1.lib
.backanno
.end
