* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4841.asc
* Generated by LTspice 24.1.9 for Windows.
V2 +V 0 5
V4 IN 0 SINE(2.5 1 250K)
X§U1 IN OUT +V 0 OUT NC_01 ADA4841
.tran 500u
.lib ADI.lib
.backanno
.end
