* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4857.asc
* Generated by LTspice 24.1.9 for Windows.
V1 V+ 0 5
V2 V- 0 -5
V3 N002 0 -5
V4 IN 0 SINE(0 1 1Meg)
R3 OUT N001 499
R4 OUT 0 1K
R5 N001 0 499
X§U1 IN N001 V+ V- OUT N002 ADA4857
.tran 10u
.lib ADI1.lib
.backanno
.end
