* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4860.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
Vin IN 0 SINE(0 1 1K)
R1 N001 0 10K
R2 OUT N001 10K
V2 -V 0 -5
Rload OUT 0 10K
X§U1 IN N001 +V -V OUT N002 ADA4860
V3 N002 0 -5
.tran 10m
.lib ADA4860.sub
.backanno
.end
