* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4870.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 20
V2 IN 0 SINE(0 0.5 1Meg)
R1 N001 0 1.21k
R2 OUT N001 1.21k
V3 -V 0 -20
X§U1 IN N001 +V -V OUT _SD ADA4870
V4 _SD 0 -15
.tran 2u
.lib ADA4870.lib
.backanno
.end
