* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4895.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
Vin IN 0 PULSE(-0.1 0.1 20n 10n 10n 90n 200n 10)
R1 N001 0 24.9
R2 OUT N001 249
V2 -V 0 -5
Rload OUT 0 1K
X§U1 IN N001 +V -V OUT +V ADA4895
.tran 2u
.lib ADA4895.lib
.backanno
.end
