* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4898.asc
* Generated by LTspice 24.1.9 for Windows.
Vee Vee 0 -15
Vcc Vcc 0 15
RL OUT 0 1k
V1 IN 0 SINE(0 10m 1Meg)
X§U1 IN OUT Vcc Vee OUT NC_01 ADA4898
.tran 2u
.lib ADA4898.sub
.backanno
.end
