* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4899.asc
* Generated by LTspice 24.1.9 for Windows.
RL Vout 0 1k
Rin N002 Vin 24.9
VS- 0 -Vs 5
VS+ +Vs 0 5
VIN Vin 0 PULSE(-1 1 20n 1n 1n 50n 100n)
X§U1 N002 N001 +Vs -Vs Vout N001 NC_01 ADA4899
.tran 100n
* ADA4899\nUnity-Gain Operation
* Disable: _DISABLE pin = -Vs\nEnable: _DISABLE pin = open\nLow Ib: _DISABLE pin = +Vs
.lib ADA4899.sub
.backanno
.end
