* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4938.asc
* Generated by LTspice 24.1.9 for Windows.
G1 0 OUT_DIFF OUT- OUT+ -1m
R5 OUT_DIFF 0 1k
VS N002 0 5
Vin IN 0 SINE(0 1 20Meg)
RG1 N004 IN 499
RF1 OUT+ N004 499
RG2 N001 0 499
RF2 OUT- N001 499
C2 0 N003 0.1µ
X§U1 N001 N004 N002 0 OUT+ OUT- N003 NC_01 NC_02 ADA4938
.tran 100n
.lib ADA4938.lib
.backanno
.end
